US08486943B2
(S)-7-Cyano-4-((3-hydroxypyridin-2-yl)methyl)-1,2,3,4-tetrahydrocyclopenta[b]indol-2-ylcarbamic acid isopropyl ester
(S)-4-((3-Methoxypyridin-2-yl)methyl)-7-cyano-1,2,3,4-tetrahydrocyclopenta[b]indol-2-ylcarbamic acid isopropyl ester (4.59 g, 11.4 mmol) and pyridine hydrochloride (21.0 g, 182 mmol) are mixed with a magnetic stirrer in a 75 mL sealed vessel that is immersed in a preheated oil bath (170° C.). The solids melt within approximately 30 sec and are stirred for 60 min. The mixture is cooled to room temperature, transferred to another flask, and dissolved in tetrahydrofuran (100 mL) and water (100 mL). Potassium carbonate (40 g) is added slowly in portions and after stirring for 5 min a 1 M solution of isopropyl chloroformate in toluene (34.0 mL, 34.0 mmol) is added at room temperature. A portion of the solvent is removed under reduced pressure and the residue is diluted with dichloromethane and ethyl acetate. The brown insoluble residue is filtered off and the phases are separated. The organic phase is washed with 10% potassium carbonate once, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to obtain a brown foam. The foam is dissolved in methanol (20 mL), 2 M sodium hydroxide (10 mL) is added and the reaction is stirred at room temperature for 1 hour. The solvent is removed under reduced pressure. The residue is dissolved in 0.5 M HCl/EtOAc/CHCl3 and the bilayer is filtered. It is then acidified to pH 7-8 with 5% potassium carbonate. The phases are separated and the organic phase is washed with 5% potassium carbonate once, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to obtain an orange foam. The foam is purified by silica flash chromatography eluting with 10 to 40% ethyl acetate/chloroform to obtain a red solid (3.33 g). The solid is dissolved in 0.5 M sodium hydroxide (30 mL). The aqueous layer is washed with dichloromethane twice and the organic layers are discarded. The aqueous layer is adjusted to pH 4-5 with 5 M hydrochloric acid. An off-white/yellow solid crashes out of solution. The pH is adjusted to 8-9 with potassium carbonate, the yellow solid is collected by filtration and air dried for one hour. It is then suspended in a minimum amount of acetonitrile, filtered, and rinsed with a minimum amount of acetonitrile. The mother liquor is concentrated and the procedure is repeated two times to afford a white powder, which is dried under high vacuum overnight to obtain the title compound as a white solid (1.45 g, 33%). LC-ES/MS m/z 391.2 [M+H]+, TR=3.32 min.

reactant | (S)-4-((3-Methoxypyridin-2-yl)methyl)-7-cyano-1,2,3,4-tetrahydrocyclopenta[b]indol-2-ylcarbamic acid isopropyl ester | 11.4 mmol, 4.59 g | C(C)(C)OC(N[C@H]1CC2=C(N(C=3C=CC(=CC23)C#N)CC2=NC=CC=C2OC)C1)=O | C23H24N4O3
reactant | pyridine hydrochloride | 182 mmol, 21.0 g | Cl.N1=CC=CC=C1
reactant | Potassium carbonate | 40 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl chloroformate | ClC(=O)OC(C)C | C4H7ClO2
reactant | toluene | 34.0 mmol, 34.0 mL | C1(=CC=CC=C1)C | C7H8
reactant | sodium hydroxide | 2 M, 10 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | water | 100 mL | O | H2O
solvent | methanol | 20 mL | CO | CH4O
product | (S)-7-Cyano-4-((3-hydroxypyridin-2-yl)methyl)-1,2,3,4-tetrahydrocyclopenta[b]indol-2-ylcarbamic acid isopropyl ester | 3.33 g | C(C)(C)OC(N[C@H]1CC2=C(N(C=3C=CC(=CC23)C#N)CC2=NC=CC=C2O)C1)=O | C22H22N4O3
